US04863904
To a solution of 121 mg of (±)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionic acid and 200 mg of L-histidyl-L-leucinol.2p-toluenesulfonic acid salt in 5 ml of N,N-dimethylformamide were successively added 0.09 ml of diphenylphosphoryl azide and 0.15 ml of triethylamine while ice-cooling, and the mixture was stirred overnight. To the reaction mixture was added a 5% aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: lower layer of chloroform/methanol/water=8/3/1 by volume) to obtain 44 mg of N-[2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl-L-leucinol (isomer A) and 75 mg of isomer B as a white powder, respectively.

reactant | (±)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionic acid | 121 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CC(NCCC1=CC=CC=C1)=O | C23H23NO3
reactant | L-histidyl-L-leucinol | 200 mg | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO | C12H22N4O2
reactant | diphenylphosphoryl azide | 0.09 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl-L-leucinol | 44 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO)CC(NCCC1=CC=CC=C1)=O | C35H43N5O4
